Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Aspirin
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ yo F with a h/o of LV diastolic dysfunction, 
HTN, and COPD who presents with one week of SOB and weakness.  
She was first diagnosed with COPD about a year ago when she 
started sleeping upright in a chair and became unable to catch 
her breath. At that time, she was hospitalized.  She has some 
triggers for SOB, including walking down the detergent aisle at 
the grocery store.
.
She woke a week ago and was out of breath walking to the 
bathroom. Normally she can walk up the stairs of her apartment, 
and now she has to stop and rest, almost becoming incontinent.  
She has been feeling weak and tired, and she now sleeps with 
three pillows, waking from sleep short of breath. Her SOB is 
relieved somewhat by standing at the open window.  She also has 
a cough productive of clear sputum. She has been using 
supplemental oxygen at home (___) since ___, which helped at 
first, but today it was not helping.  With her SOB this week, 
she has had no CP or symptoms of respiratory illness.
.
She has had a number of recent medication changes. She stopped 
taking steroids two months ago, and stopped lisinopril on the 
___ because it made her cough.  She started lasix two months 
ago, and 3 weeks ago her dose was increased from 10 to 20 mg QD 
because of increased ankle swelling. She reports that her 
spireva and symbicort do not help with her SOB.
.
She has made no changes in her diet, but admits that she eats 
salty foods like the entire bag of smartfood popcorn or fritos. 
She has noted an 8 lb weight loss over the last two months.
.
In the ED, initial vs were: T 97.8 P 64 BP 118/97 R 24 O2 sat 
99% 3L. Patient was given Combivent Nebs x3, Lasix 20 mg, HCTZ 
12.5 mg, Azithromycin 500 mg, Solumedrol 125mg.
.
On the floor, she was not feeling short of breath unless she 
reclined.
.
Review of sytems: 
(+) Per HPI
(-) Denies fever, headache, rhinorrhea or congestion. Denied 
chest pain or palpitations. Denied nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denied arthralgias or myalgias. She 
has no animals, no new soap, and has not traveled recently.

 
Past Medical History:
COPD
LV diastolic dysfunction ___
HTN
Mild Pulmonary hypertension ___
Normal EF ___
h/o ectopic pregnancy
h/o positive PPD, normal CXR, never treated 

 
Social History:
___
Family History:
Mother had COPD, Father died of stroke, two siblings with DM, 
one half sibling with "kidney problem" now deceased.

 
Physical Exam:
Vitals: T: 97.7 P: 86 BP: 104/84 R: 22 O2: 93% 3L  
General: Alert, oriented, no acute distress, sitting up.
HEENT: MMM, oropharynx clear
Neck: JVP not elevated, no LAD
Lungs: Sparse wheezes, R>L, distant breath sounds bilaterally, 
not moving good air.
CV: RRR low pitched, hard to hear heart sounds
Abdomen:  Non-tender, non-distended, positive bowel sounds. 
Ext: 2+ DP, radial pulses, no clubbing, cyanosis. BLE mildly 
edematous
Neuro: CNII-XII intact, ___ Biceps, grip, leg lift, Tibialis 
anterior, gastroc/soleus.

 
Pertinent Results:
Admission labs:
___ 07:33AM
WBC-6.7 RBC-5.44* Hgb-12.2 Hct-38.4 MCV-71* MCH-22.4* MCHC-31.7 
RDW-15.6* Plt ___
Neuts-49.4* ___ Monos-4.9 Eos-8.3* Baso-0.4
UreaN-9 Creat-1.0 Na-136 K-3.7 Cl-100 HCO3-30 AnGap-14
Calcium-8.7 Phos-4.2 Mg-2.1
Lactate-2.5* 
CK(CPK)-468*
proBNP-35
 
___ Arterial blood gas
pO2-71* pCO2-49* pH-7.40 calTCO2-31* Base XS-3

___ Smear
Hypochr-1+ Anisocy-1+ Poiklo-1+ Macrocy-NORMAL Microcy-1+ 
Polychr-1+ Target-2+ Schisto-OCCASIONAL Tear ___ 
___ Ellipto-1+

___ 07:33AM BLOOD CK-MB-5 cTropnT-<0.01
___ 05:00PM BLOOD CK-MB-4 cTropnT-<0.01
___ 07:25AM BLOOD CK-MB-4 cTropnT-<0.01

Iron-47
calTIBC-359 Ferritn-82 TRF-276
%HbA1c-6.3*

___ CXR
IMPRESSION: No acute pulmonary process detected. Stable opacity 
in the left lower lung zone, which represents a pleural lipoma. 

 
Brief Hospital Course:
___ yo F with a h/o of LV diastolic dysfunction, HTN, and COPD 
who presents with one week of shortness of breath likely due to 
COPD flare. 
.
#COPD flare: Possible etiologies for her SOB were MI, CHF flare, 
Asthma, COPD flare, pulmonary hypertension, pneumonia, 
interstitial lung disease, PE. Her EKG was unchanged from the 
prior EKG, showing a possible old septal infarct and no changes 
consistent with PE. She had no chest pain and cardiac enzymes 
were also negative. Her SOB is likely not related to MI. CXR 
showed no pulmonary edema and BNP was also normal, suggesting 
she had no CHF, even though her history of increased dyspnea 
when she reclines sounds like CHF. She has wheezes and 
eosinophilia, suggestive of asthma, but she does not have a 
prior history of asthma.  Pulmonary hypertension would most 
likely have a more insidious onset than her presentation. 
Pneumonia is possible, but CXR is clear and her sputum is clear. 
She was given albuterol and ipratropium nebs as well as a 
prednisone taper from 60mg. A course of azithromycin was started 
on ___. ABG showed respiratory acidosis with metabolic 
compensation and additional metabolic alkalosis likely due to 
lasix. Her shortness of breath improved on these treatments, 
suggesting that her SOB was a COPD flare. Her outpatient 
cardiologist was contacted and wished to defer further cardiac 
workup (likely a nuclear stress test) to the outpatient setting. 
At the time of discharge, she was feeling at her baseline; she 
was discharged with follow up appointments with her 
pulmonologist and cardiologist and to complete a steroid taper.
.
#Microcytosis: ___ TIBC, ferritin, and TRF were normal and 
HCT was normal. Smear is consistent with Thalassemia trait or 
sideroblastic anemia.  Thought likely to be  thalassemia trait, 
but further workup may be required.
.
#HTN: Continued HCTZ. Her blood pressures remained within normal 
limits. 
.
#CK elevated: CK is chronically elevated in Ms. ___. Troponin 
was negative this admission. CK elevation is common among 
___ americans and also seen in hypothyroidism. Ms. ___ 
TSH is normal, so likely this is a benign elevation.
.
#Elevated HbA1c: HBA1c was 6.3.  Fingersticks were not elevated 
on prednisone. ___ will check fingersticks.
. 
#FEN: Low Salt diet
. 
#Prophylaxis: DVT prophylaxis was with subutaneous heparin. 
Calcium and Vitamin D were given for bone protection with 
steroids. She was also given a bowel regimen and omeprazole.

Code:  Full (discussed with patient)
. 
Communication: Emergency contact and HCP is daughter ___ ___
 
___ on Admission:
Furosemide 20 mg QD as needed for edema
Supplemental oxygen ___ L
HCTZ 12.5 mg QD
ProAir HFA ___ puffs Q4-6H as needed for sob or wheeze
Spireva 18 mcg 1 puff/day
Symbicort 160 mcg 1 puff BID

 
Discharge Medications:
1. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. Hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
3. Prednisone 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily): 
Take two tablets on ___ and ___. Take one tablet on 
___, and ___ and then STOP. .
Disp:*9 Tablet(s)* Refills:*0*
4. Spiriva with HandiHaler 18 mcg Capsule, w/Inhalation Device 
Sig: One (1) puff Inhalation once a day.  
5. ProAir HFA 90 mcg/Actuation HFA Aerosol Inhaler Sig: ___ 
puffs Inhalation every ___ hours as needed for shortness of 
breath or wheezing.  
6. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1) neb Inhalation Q6H (every 6 hours) as 
needed for shortness of breath.  
7. Azithromycin 250 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours).
Disp:*2 Tablet(s)* Refills:*0*
8. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO TID (3 times a day).  
9. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
10. Symbicort 160-4.5 mcg/Actuation HFA Aerosol Inhaler Sig: One 
(1) inh Inhalation twice a day.  
11. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
One (1)  Inhalation three times a day as needed for shortness of 
breath or wheezing.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
COPD
.
Secondary diagnosis:
Diastolic heart failure
Hypertension
Pulmonary hypertension

 
Discharge Condition:
stable, afebrile, on baseline oxygen support of 2LNC, including 
with ambulation.

 
Discharge Instructions:
You were admitted to the hospital because you had a flare of 
your COPD. Your blood tests showed that you did not have a heart 
attack.  We treated you with steroids, albuterol, and 
ipratropium, and an antibiotic called azithromycin, and your 
breathing improved.

While you were here we noticed that your red blood cells are 
small. This may require additional workup by your primary care 
physician. 

We also tested something called hemoglobin A1c, which is a 
measure of how high your blood sugars have been.  Yours was 6.3, 
which is slightly high, so you should follow up with your 
primary care physician and be tested for Diabetes in the future.
.

Please take all of your mediations as you were previously 
taking, in addition, please make the following changes:
* Please take azithromycin for 2 more days
* Please take Prednisone for 6 more days.  For the next three 
days (___) please take two tablets daily (40 
mg).  For the next three days (___), please take 
one tablet daily (20 mg).

Please contact your physician or return to the hospital if you 
have worsening shortness of breath, chest pain, chest tightness, 
palpitations, or fever.
 
Followup Instructions:
___